### PR TITLE
[Merged by Bors] - feat: `(∏ᶠ i, f i) a = ∏ᶠ i, f i a`

### PR DESCRIPTION
**Pull request by YaelDillies**
From FLT

Co-authored-by: Kevin Buzzard

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 1]
```diff
@@ -920,6 +921,14 @@ theorem finprod_mem_sUnion {t : Set (Set α)} (h : t.PairwiseDisjoint id) (ht₀
   rw [Set.sUnion_eq_biUnion]
   exact finprod_mem_biUnion h ht₀ ht₁
 
+@[to_additive]
+lemma finprod_option [Finite α] (φ : Option α → M) : ∏ᶠ o, φ o = φ none * ∏ᶠ a, φ (some a) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Finprod.lean:925]: This should only need that `(mulSupport φ).Finite`, right?

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 2]
```diff
@@ -1007,6 +1016,14 @@ theorem finsum_mul {R : Type*} [Semiring R] (f : α → R) (r : R) (h : (support
     (∑ᶠ a : α, f a) * r = ∑ᶠ a : α, f a * r :=
   (AddMonoidHom.mulRight r).map_finsum h
 
+@[to_additive (attr := simp)]
+lemma finprod_apply {α ι : Type*} [Finite ι] (f : ι → α → N) (a : α) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Finprod.lean:1020]: Same here

File: Mathlib/Algebra/BigOperators/Finprod.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Algebra/BigOperators/Finprod.lean:925]: Isn't `(mulSupport φ).Finite` equivalent and more natural?

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Finprod.lean]: Composition with `some` feels more likely to reduce to something useful; consider when `φ = Option.map f`

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 3]
```diff
@@ -1007,6 +1021,15 @@ theorem finsum_mul {R : Type*} [Semiring R] (f : α → R) (r : R) (h : (support
     (∑ᶠ a : α, f a) * r = ∑ᶠ a : α, f a * r :=
   (AddMonoidHom.mulRight r).map_finsum h
 
+@[to_additive (attr := simp)]
+lemma finprod_apply {α ι : Type*} {f : ι → α → N} (hf : (mulSupport f).Finite) (a : α) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Finprod.lean:1025]: I guess if only `(mulSupport (f i)).Finite` for each `i`, then you run into trouble when `ι`, and the LHS is a junk value while the RHS is not...

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
